US05612338
A solution of 3.5 g (9.3 mmol) of methyl {1,3-dimethyl-4-[6-(2-fluorophenoxy)pyrimidin-4-yloxy]pyrazol-5-yl}acetate and 10 ml of methyl formate in 10 ml of dimethyl formamide is slowly added dropwise to a suspension of 0.5 g (20.0 mmol) of sodium hydride (95%) in 40 ml of dimethyl formamide, while keeping the temperature below 30° C. The reaction mixture is stirred for 2 hours at room temperature, acidified with acetic acid and, after addition of 200 ml of ice-water, extracted with 200 ml of ethyl acetate. The organic phase is washed with water and sodium chloride solution, dried and concentrated under vacuum, giving E-methyl-2-{1,3-dimethyl-4-[6-(2-fluorophenoxy)pyrimidin-4-yloxy]pyrazol-5-yl}-3-hydroxyacrylate as a brown resin, which is stirred together with 1.8 g (13.0 mmol) of potassium carbonate and 0.9 ml (6.7 mmol) of dimethyl sulfate in 40 ml of acetone for 3 hours at room temperature. The reaction mixture is filtered, the filtrate is diluted with 50 ml of water and extracted with 100 ml of ethyl acetate. The organic phase is washed with sodium chloride solution, dried and concentrated under vacuum. The residue is chromatographed over silica gel tetrahydrofuran/n-hexane (1:1) as eluant, giving E-methyl-2-{1,3-dimethyl-4-[6-(2-fluorophenoxy)pyrimidin-4-yloxy]pyrazol-5-yl}-3-methoxyacrylate as a yellow resin; MS: 414 (M+, 44%), 75 (100).

reactant | methyl {1,3-dimethyl-4-[6-(2-fluorophenoxy)pyrimidin-4-yloxy]pyrazol-5-yl}acetate | 9.3 mmol, 3.5 g | CN1N=C(C(=C1CC(=O)OC)OC1=NC=NC(=C1)OC1=C(C=CC=C1)F)C | C18H17FN4O4
reactant | methyl formate | 10 ml | C(=O)OC | C2H4O2
reactant | sodium hydride | 20.0 mmol, 0.5 g | [H-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 40 ml | CN(C=O)C | C3H7NO
product | E-methyl-2-{1,3-dimethyl-4-[6-(2-fluorophenoxy)pyrimidin-4-yloxy]pyrazol-5-yl}-3-hydroxyacrylate | COC(\C(=C\O)\C1=C(C(=NN1C)C)OC1=NC=NC(=C1)OC1=C(C=CC=C1)F)=O | C19H17FN4O5
